US08420823B2
3-{[(4-Isopropylphenyl)amino]carbonyl}benzenesulfonyl chloride
The entitled compound was produced according to the method of Reference Example 1 but using 4-isopropylaniline and 3-(chlorosulfonyl)benzoyl chloride as the starting materials.

reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | 3-(chlorosulfonyl)benzoyl chloride | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
product | 3-{[(4-Isopropylphenyl)amino]carbonyl}benzenesulfonyl chloride | C(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H16ClNO3S
